US08071581B2
Compound 117: 3-Bromo-6-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-ylmethyl-quinoline
A mixture of 5-(3-bromo-quinolin-6-ylmethyl)-[1,2,4]triazole-3,4-diamine (977 mg, 3 mmol), glyoxal (40% solution in water, 5 mL), acetic acid (10 mL) and water (2 mL) was stirred at ambient temperature for 18 hours. After such time the mixture was filtered and the filtrate was concentrated onto silica gel and via flash column chromatography (SiO2 12 g, dichloromethane/CH3OH, 0-10%) to return the title compound a white solid (298 mg, 29%). Analytical data presented in Table 1.

reactant | 5-(3-bromo-quinolin-6-ylmethyl)-[1,2,4]triazole-3,4-diamine | 3 mmol, 977 mg | BrC=1C=NC2=CC=C(C=C2C1)CC=1N(C(=NN1)N)N | C12H11BrN6
reactant | glyoxal | 5 mL | C(=O)C=O | C2H2O2
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
product | 3-Bromo-6-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-ylmethyl-quinoline | BrC=1C=NC2=CC=C(C=C2C1)CC1=NN=C2N1N=CC=N2 | C14H9BrN6
